US05270327
1-(6-methoxy-3-oxoindan-1-carbonyl)-2-(pyrrolidin-1-ylmethyl)piperidine hydrochloride
From 1.21 g of 2-(pyrrolidin-1-ylmethyl)piperidine dihydrochloride. 1.35 g of 6-methoxy-3-oxoindan-1-carbonyl chloride and 2.79 ml of triethylamine. 0.72 g of the title compound was obtained, melting at 210°-228° C. (dec) using a procedure similar to that in Example 2.

reactant | 2-(pyrrolidin-1-ylmethyl)piperidine dihydrochloride | 1.21 g | Cl.Cl.N1(CCCC1)CC1NCCCC1
reactant | 6-methoxy-3-oxoindan-1-carbonyl chloride | 1.35 g | COC1=CC=C2C(CC(C2=C1)C(=O)Cl)=O | C11H9ClO3
solvent | triethylamine | 2.79 ml | C(C)N(CC)CC | C6H15N
product | 1-(6-methoxy-3-oxoindan-1-carbonyl)-2-(pyrrolidin-1-ylmethyl)piperidine hydrochloride | 0.72 g | Cl.COC1=CC=C2C(CC(C2=C1)C(=O)N1C(CCCC1)CN1CCCC1)=O | InChI=1S/C21H28N2O3.ClH/c1-26-16-7-8-17-18(12-16)19(13-20(17)24)21(25)23-11-3-2-6-15(23)14-22-9-4-5-10-22;/h7-8,12,15,19H,2-6,9-11,13-14H2,1H3;1H
